US07132416B2
(R)-α-{N-[(S)-1-(t-Butoxycarbonyl)propyl]carbamoyl}-4-hydroxybenzylamine
A mixture of (R)-N-Benzyloxycarbonyl-α-{N-[(S)-1-(t-butoxycarbonyl)propyl]carbamoyl}-4-hydroxybenzylamine Method 18; 1.80 g, 4.07 mmol) and Pd/C (0.2 g, 5%) in ethanol (30 ml, 95%) was stirred under hydrogen gas at room temperature for 2 hours. The reaction mixture was filtered through silica gel (2 g) and concentrated. The residue was dissolved in acetone (20 ml) and methanesulphonic acid (0.40 g, 4.16 mmol) was added. No crystallization was obtained and the solvent was removed under reduced pressure. The crude product was purified by preparative HPLC using a gradient of 20–50% MeCN in 0.1M ammonium acetate buffer as eluent. The title compound was obtained in 0.350 g (28%) as a white solid. NMR (400 MHz, DMSO-d6): 0.75 (3H, t), 1.40 (9H, s), 1.50–1.75 (2H, m), 2.70 (1H, s), 4.00–4.10 (1H, m), 4.30 (1H, s), 6.65 (2H, d), 7.15 (2H, d), 8.15 (1H, d).

reactant | (R)-N-Benzyloxycarbonyl-α-{N-[(S)-1-(t-butoxycarbonyl)propyl]carbamoyl}-4-hydroxybenzylamine | C(C1=CC=CC=C1)OC(=O)N[C@H](C1=CC=C(C=C1)O)C(N[C@@H](CC)C(=O)OC(C)(C)C)=O | C24H30N2O6
reactant | methanesulphonic acid | 4.16 mmol, 0.40 g | CS(=O)(=O)O | CH4O3S
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.2 g | [Pd] | Pd
product | (R)-α-{N-[(S)-1-(t-Butoxycarbonyl)propyl]carbamoyl}-4-hydroxybenzylamine | C(C)(C)(C)OC(=O)[C@H](CC)NC(=O)[C@@H](C1=CC=C(C=C1)O)N | C16H24N2O4
